US04663409
N-Methacryloyl-L-glutamic Acid
The same procedure as described in Example A is utilized with 100 g (0.6 mol) of L-glutamic acid monosodium salt, 50 g (0.125 mol) of sodium hydroxide, and 63 g of methacryloyl chloride to yield 62 g (48.7%) of a crystalline material, melting point 128°-130° C. NMR (D2O), 5.7 gamma (s, 1H, =CH2), 5.4 gamma (s, 1H, =CH2), 4.4 gamma (2 d, 1H, CH), 2.0-2.7 gamma (m, 4H, CH2CH2), and 1.9 gamma (s, 3H, CH3).

reactant | L-glutamic acid monosodium salt | 0.6 mol, 100 g | [Na+].N[C@@H](CCC(=O)O)C(=O)[O-]
reactant | sodium hydroxide | 0.125 mol, 50 g | [OH-].[Na+]
reactant | methacryloyl chloride | 63 g | C(C(=C)C)(=O)Cl | C4H5ClO
product | N-Methacryloyl-L-glutamic Acid | 62 g, 48.7% | C(C(=C)C)(=O)N[C@@H](CCC(=O)O)C(=O)O | C9H13NO5
